US04473491
Preparation of N-(2'-carbomethoxy-ethyl)-2-ethylhexylamine
While stirring at a temperature of 20° C., 90.3 grams (1.05 mole) of methylacrylate were dripped into 129 grams (1 mole) of 2-ethylhexylamine within a period of 30 minutes. The temperature was increased to 35° C. The mixture was stirred at 100° C. for 2 hours and was subsequently degassed at 50° C. under a high vacuum for 1 hour. The remaining residue was 210 grams (98 percent of theory) liquid N-(2'-carbomethoxy-ethyl)-2-ethylhexylamine. The 60 MHz-Nuclear Magnetic Resonance Spectrum s 3.7 ppm COOCH3 ; m 2.9 ppm; m 2.5 ppm; 0.7 to 1.5 ppm confirms the structure.

reactant | methylacrylate | 1.05 mole, 90.3 grams | COC(C=C)=O | C4H6O2
reactant | 2-ethylhexylamine | 1 mole, 129 grams | C(C)C(CN)CCCC | C8H19N
product | N-(2'-carbomethoxy-ethyl)-2-ethylhexylamine | C(=O)(OC)CCNCC(CCCC)CC | C12H25NO2
